US04430346
Into 4.5 ml of dimethylformamide, was dissolved 596 mg of (S)-7-guanidino-3-hydroxyheptanamide hydrochloride followed by the addition of 1.2 ml of pyridine and 3.9 ml of n-hexanoic anhydride. The solution was stirred under application of heat for 24 hours. The reaction mixture was admixed with 20 ml of ice water, left standing for 30 minutes, admixed with 20 ml of ethyl acetate, and left standing to effect phase separation. The ethyl acetate layer was extracted 4 times with 30 ml of 0.5 N hydrochloric acid. The aqueous layers were combined, neutralized with 2 N aqueous sodium hydroxide solution, concentrated under reduced pressure, desalted by treating with methanol, and treated, as in Example 2, with CM Sephadex® C-25 and Sephadex® LH-20 to obtain 653 mg of purified (S)-7-guanidino-3-hexanoylheptanamide hydrochloride in oily form. NMR: 0.89 (CH3), 1.1-1.9 (CH2 x6), 2.36 (COCH2), 2.45 (CH2), 3.14 (CH2), 5.17 (CH).

reactant | dimethylformamide | 4.5 ml | CN(C=O)C | C3H7NO
reactant | (S)-7-guanidino-3-hydroxyheptanamide hydrochloride | 596 mg | Cl.N(C(=N)N)CCCC[C@@H](CC(=O)N)O
reactant | pyridine | 1.2 ml | N1=CC=CC=C1 | C5H5N
reactant | n-hexanoic anhydride | 3.9 ml | C(CCCCC)(=O)OC(CCCCC)=O | C12H22O3
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | (S)-7-guanidino-3-hexanoylheptanamide hydrochloride | 653 mg | Cl.N(C(=N)N)CCCC[C@@H](CC(=O)N)C(CCCCC)=O | InChI=1S/C14H28N4O2.ClH/c1-2-3-4-8-12(19)11(10-13(15)20)7-5-6-9-18-14(16)17;/h11H,2-10H2,1H3,(H2,15,20)(H4,16,17,18);1H/t11-;/m0./s1
